US06667322B2
To a solution of (2R)-2-(2-methoxy-6-vinylphenoxy)-3-butenyl 4-methyl-benzenesulfonate (3.00 g, 8.01 mmol) in dichloromethane (100 mL) was added bis(tricyclopentylphoshine)benzylidene ruthenium(IV) dichloride (0.59 g, 0.80 mmol) and the reaction mixture was stirred at room temperature for 4 h. The solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:3) provided 2.47 g (68%, >97% ee) of [(2R)-8-methoxy-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate as a light purple oil. [α]D25=+150.31 (c 10.18 in chloroform, >97% ee); Rf=0.53 (silica, ethyl acetate:hexanes 2:3); Anal. Calcd. for C18H18O5S.0.2 H2O: C, 61.77; H, 5.29. Found: C, 61.49; H, 5.00.

reactant | (2R)-2-(2-methoxy-6-vinylphenoxy)-3-butenyl 4-methyl-benzenesulfonate | 8.01 mmol, 3.00 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=C)OC1=C(C=CC=C1C=C)OC | C20H22O5S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | [(2R)-8-methoxy-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 2.47 g, 68% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2C=C1)OC | C18H18O5S
